US05411990
The mixture of 2.0 g (0.0127 mol) of dichloroglyoxime (Compound No.6), 20 ml of dichloroethane and 2.4 g (0.0306 mol) of acetyl chloride was stirred in an ice bath. To the mixture, triethylamine (3.1 g, 0.0307 mol) was added dropwise, followed by stirring for 30 minutes. The reaction mixture was washed twice with 15 ml of water. The dichloroethane solution was concentrated under reduced pressure, to obtain white crystals of dichloroglyoxime diacetate (Compound No.2, yield: 30%).

reactant | dichloroglyoxime | 0.0127 mol, 2.0 g | ClC(C(=NO)Cl)=NO | C2H2Cl2N2O2
reactant | acetyl chloride | 0.0306 mol, 2.4 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.0307 mol, 3.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
product | dichloroglyoxime diacetate | yield: 30% | C(C)(=O)O.C(C)(=O)O.ClC(C(=NO)Cl)=NO | InChI=1S/C2H2Cl2N2O2.2C2H4O2/c3-1(5-7)2(4)6-8;2*1-2(3)4/h7-8H;2*1H3,(H,3,4)
